Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Codeine / Latex / Lactose / Shellfish Derived
 
Attending: ___.
 
Chief Complaint:
vegetation seen on outpatient TTE  

 
Major Surgical or Invasive Procedure:
transesophageal echocardiogram
 
History of Present Illness:
Mr. ___ is a ___ gentleman with ESRD on HD, CAD, ___ with 
resultant cardiac liver chirrosis, h/o MSSA bacteremia, RUE 
fistula s/p multiple revisions presenting with concern for 
endocarditis. He had an outpatient TTE on ___ due to new 
diastolic murmur and he was called and told to come to the ED 
because of new pulmonic valve vegetation and new pulmonaric 
valve regurg.  
.  
In the ED, initial VS were 97.2 73 110/69 18 99%. He was noted 
to be chronically ill-appearing but not acutely ill. CXR not 
very concerning. He has a PCN allergy. Received vancomycin and 
gentamycin. Admitted for further workup.  
.  
Upon arrival to the floor, he is extremely somnolent but is 
arousable and answers questions. Pt denies current f/c, n/v/d, 
abd pain, CP/SOB/cough, focal n/t/w, dysuria. He repeats, "I 
don't want to be sick, and I don't want to get sicker. This is 
not fair."  

 
Past Medical History:
ESRD on HD ___, anemia, CAD, hypertension, systolic CHF,
hypothyroidism, psoriasis, restless leg syndrome, h/o L3 burst
fracture, s/p spinal fusion L2-4 ___, h/o MSSA osteomyelitis,
h/o MSSA epidural abscess, h/o MSSA paraspinal abscess, h/o MSSA
bacteremia.

 
Social History:
___
Family History:
Father died of MI in ___ mother alive and well ___; 8 siblings, 
one of whom has HTN, one who has a cerebral aneurysm; he has no 
children.
 
Physical Exam:
admission exam 
VS - Temp 97.4F, BP 122/82, HR 64, R 18, O2-sat 100% 3L NC  
GENERAL - cachectic, chronically ill-appearing man with muscle 
wasting  
HEENT - MMM, OP clear  
NECK - no thyromegaly, no JVD, no carotid bruits  
HEART - faint diastolic murmur at right and left sternal border; 
no rubs, no extra heart sounds  
LUNGS - no crackles, no wheezes  
ABDOMEN - protuberant abdomen, (+) fluid wave, no tenderness, 
liver edge palpable 1-2cm below costal angle  
EXTREMITIES - thin, 2+ DP pulses  
LYMPH - no cervical LAD  
NEURO - very somnolent, but arousable and does answer questions 
appropriately; was oriented to hospital name and year  
. 
discharge exam 
VS: 97.4 109/77 (109/77-138/86) 77 (74-81) 18 100% RA
GENERAL - cachectic, chronically ill-appearing man with muscle 
wasting  
HEENT - MMM, OP clear  
HEART - faint diastolic murmur at right and left sternal border; 
no rubs, no extra heart sounds  
LUNGS - decreased breath sounds at bases but otherwise clear 
ABDOMEN - distended with bulging flanks, (+) fluid wave, no 
tenderness, liver edge palpable 1-2cm below costal angle  
EXTREMITIES - thin, 2+ DP pulses  
NEURO -awake, A&Ox3. moving all extremities 

 
Pertinent Results:
admission labs 
___ 09:05PM BLOOD WBC-5.2 RBC-3.49* Hgb-10.1* Hct-32.1* 
MCV-92 MCH-28.9 MCHC-31.5 RDW-18.3* Plt ___
___ 09:05PM BLOOD Neuts-64 Bands-0 Lymphs-17* Monos-12* 
Eos-2 Baso-0 Atyps-5* ___ Myelos-0
___ 09:05PM BLOOD Hypochr-2+ Anisocy-2+ Poiklo-NORMAL 
Macrocy-1+ Microcy-OCCASIONAL Polychr-NORMAL
___ 09:05PM BLOOD ___ PTT-37.2* ___
___ 09:05PM BLOOD Glucose-79 UreaN-19 Creat-3.0* Na-136 
K-5.2* Cl-96 HCO3-30 AnGap-15
___ 09:05PM BLOOD ALT-14 AST-42* AlkPhos-129 TotBili-0.4
___ 09:05PM BLOOD Albumin-3.0*
___ 09:19PM BLOOD Lactate-2.1*
___ 10:40PM URINE Color-Straw Appear-Clear Sp ___
___ 10:40PM URINE Blood-LG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-SM
___ 10:40PM URINE RBC-42* WBC-28* Bacteri-FEW Yeast-NONE 
Epi-<1 TransE-1
___ 10:40PM URINE WBC Clm-FEW Mucous-RARE
.
urine culture - no growth 
blood culture ___ - NGTD
. 
studies:
admission ECG: 
Normal sinus rhythm. Prominent voltage in the precordial leads 
consistent with
left ventricular hypertrophy with secondary ST-T wave 
abnormalities. Left
atrial abnormality. Compared to the previous tracing of ___ 
no diagnostic
interval change.
. 
admission CXR: 
FINDINGS: As compared to the prior examination, small bilateral 
pleural
effusions are not substantially changed. There is some 
loculation on the
right. Scattered areas of atelectasis are present. No definite 
consolidation
suggestive of pneumonia is seen. There is moderately 
cardiomegaly, unchanged.
There are calcifications of the aortic arch. A right-sided 
vascular stent is
unchanged. There is partially imaged lumbar spinal fusion 
hardware.
.
TEE ___
No spontaneous echo contrast or thrombus is seen in the body of 
the left atrium/left atrial appendage or the body of the right 
atrium/right atrial appendage. Right atrial appendage ejection 
velocity is good (>20 cm/s). No atrial septal defect is seen by 
2D or color Doppler. There is severe global left ventricular 
hypokinesis (LVEF = ___ %). Right ventricular free wall motion 
is depressed. There are simple atheroma in the descending 
thoracic aorta to 30 cm from the incisors. The main pulmonary 
artery is mildly dilated. The aortic valve leaflets (3) are 
mildly thickened. No masses or vegetations are seen on the 
aortic valve. Trace aortic regurgitation is seen. The mitral 
valve leaflets appear structurally normal. There is no mitral 
valve prolapse. No mass or vegetation is seen on the mitral 
valve. Mild to moderate (___) mitral regurgitation is seen. The 
pulmonic valve leaflets are mildly thickened. No vegetation/mass 
is seen on the pulmonic valve. There is trivial/physiologic 
pulmonic regurgitation. The tricuspid valve leaflets appear 
structurally normal. There is mild-moderate tricuspid 
regurgitation. There is a very small pericardial effusion. 

IMPRESSION: Mild aortic leaflet thickening without discrete 
vegetation. Mild pulmonic leaflet thickening without discrete 
vegetation. Trace aortic regurgitation. Mild-moderate mitral 
regurgitation. Mild-moderate tricuspid regurgitation. 
Biventricular hypokinesis. 
. 
CXR ___
Bilateral lower lung opacification in the setting of improved 
right pleural effusion and absence of pulmonary vasculature 
engorgement concerning for multifocal pneumonia.
.

 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with ESRD on HD, ___ with 
resultant cardiac liver cirrhosis, h/o MSSA bacteremia, RUE 
fistula s/p multiple revisions presented with concern for 
endocarditis found to have negative TEE. However, during 
hospital course developed worsening cough and found to have 
multifocal pneumonia. 
.  
#. Possible Endocarditis - Patient was found to have a new 
pulmonic valve vegetation on outpatient TTE on ___ concerning 
for endocarditis vs fibrin deposit on valve and was referred to 
the ED for evaluation. Patient was initially started on 
vancomycin and gentamycin for possible endocarditis. His 
antibiotics were then narrowed to vancomycin only. He underwent 
a TEE on ___ which showed no evidence of vegetations. Daily 
blood cultures from ___ to ___ had no growth. 
.  
# pneumonia: During TEE, patient noted to vomit with possible 
aspiration. The following evening he was noted to have worsening 
cough and new oxygen requirement. He had a chest xray which was 
concerning for multifocal pneumonia. His white count increased 
from 7 to 22. Given cough, new oxygen requirement, leukocytosis 
and evidence of multifocal pneumonia on CXR patient was started 
initially on zosyn in addition to his vancomycin. This was 
subsequently changed to ceftazidime and po flagyl. Patient was 
discharged with plans to complete an 8 day course for hospital 
acquired/aspiration pneumonia. He should receive both vanc and 
ceftazidime at his dialysis sessions on ___ and 
___. He should continue po flagyl until ___. 
.
# ESRD: Patient continued on his regular dialysis schedule of 
___. He was dosed with vancomycin during dialysis. He should 
receive both vanc and ceftazidime at his dialysis sessions on 
___ and ___. Patient continued on his 
renvela, nephrocaps during admission.  
.
#. Chronic illness: Patient has very poor functional status. 
Heart failure, ESRD on HD, malnourished.  Patient seen by 
palliative care and appears to have some understanding of 
severity of his diseases, however, is somewhat avoidant in 
direct disscussions of these issues or planning for the future. 
He would like to continue to receive current treatment and is 
hopeful that he will get stronger with rehab. 
.  
Inactive issues:  
.
#. Cirrhosis: MELD on admission 23. Patient had ascites on exam 
but did not appear symptomatic from it. Patient has history of 
hepatic encephalopathy and has taken lactulose in the past, 
however did not require any during admission. 
.
#. Anemia: Hct at baseline. Likely from chronic disease and Epo 
deficiency. HCT remained stable during admission. 
.  
#. Systolic CHF: continued ACE, beta ___ 
.  
#. COPD: stable. Continued Spiriva, Proair  
.
#. Hypothyroidism: stable, continued synthroid
.  
#. Chronic pain:  continued gabapentin, hydromorphone
.  
#. Malnutrition: B Complex Vitamins Cap, Renal Caps 1 mg daily, 
nutrition c/s  
.  
# depression/anxiety: continued bupropion and clonazepam 
. 
# restless leg syndrome: continued ropinirole  
.
transitional issues: 
- final blood cultures pending at time of discharge 
- patient should have vancomycin and ceftazidime dosed at 
dialysis sessions on ___ and on ___. 
- patient should continue flagyl until ___
- patient should have electrolytes monitored with dialysis
- patient was full code on this admission 
- contact: ___ (sister) ___  

 
Medications on Admission:
ropinirole 0.25 mg QHS  
Spiriva with HandiHaler 18 mcg 2 puffs(s) once a day  
Renvela 800 mg Tab: 3 Tablet(s) by mouth three times a day  
Aspirin 81 mg daily  
clonazepam 1 mg qd prn  
ProAir HFA 90 mcg ___ puffs(s) INH every four (4) hours as 
needed for shortness of breath or wheezing  
lisinopril 5 mg daily  
hydromorphone 8 mg BID  
Advil 200 mg PRN  
carbamide peroxide 6.5 %: 2 drops in the ear twice a day For 7 
days or until appointment for early cleaning  
Synthroid ___ mcg daily  
trazodone 50 mg QHS PRN  
gabapentin 300mg-600mg Cap BID and 900mg QHS  
B Complex Vitamins Cap  
bupropion HCl SR 150 mg Tab daily  
metoprolol succinate ER 100 mg daily  
Renal Caps 1 mg daily 
 
Discharge Medications:
1. bupropion HCl 150 mg Tablet Extended Release Sig: One (1) 
Tablet Extended Release PO QAM (once a day (in the morning)).  
2. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO once a day.  
4. albuterol sulfate 90 mcg/actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q4H (every 4 hours) as needed for 
SOB/wheeze.  
5. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
6. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
7. folic acid 1 mg Tablet Sig: One (1) Tablet PO once a day.  
8. levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. nicotine 7 mg/24 hr Patch 24 hr Sig: One (1) patch 
Transdermal once a day.  
10. cholestyramine (with sugar) 4 gram Packet Sig: One (1) 
Packet PO BID (2 times a day).  
11. sevelamer carbonate 800 mg Tablet Sig: Three (3) Tablet PO 
TID W/MEALS (3 TIMES A DAY WITH MEALS).  
12. ropinirole 0.25 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).  
13. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
14. ascorbic acid ___ mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
15. clonazepam 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for anxiety.  
16. hydromorphone 2 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day) as needed for pain.  
17. gabapentin 100 mg Capsule Sig: Two (2) Capsule PO Q24H 
(every 24 hours).  
18. metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H 
(every 8 hours) for 7 days.  
19. vancomycin 1,000 mg Recon Soln Sig: dose per HD protocol mg 
Intravenous qHD for 7 days: please give per HD protocol at 
dialysis sessions on ___ and ___ .  
20. ceftazidime 1 gram Recon Soln Sig: One (1) gram Intravenous 
QHD for 7 days: please give at HD sessions on ___ and ___.  
21. polyvinyl alcohol 1.4 % Drops Sig: ___ Drops Ophthalmic PRN 
(as needed) as needed for dry eye.  
22. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
23. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
aspiration pneumonia 

Secondary:
End stage renal disease on dialysis
Cirrhosis
Systolic congestive heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 
. 
It was a pleasure caring for you while you were admitted to 
___. You were admitted because you were found to have an 
abnormality on your recent heart study that was concerning for 
an infection. You underwent a TEE which showed no evidence of 
infection on your heart valves. After your procedure you 
developed a cough and had blood work and a chest xray concerning 
for infection. You were started on antibiotics to treat your 
pneumonia and you clinically improved. 
.
The following changes have been made to you medication regimen
Please START
- flagyl (take as prescribed until ___
- vancomycin and ceftazidime (dose in dialysis on ___ and ___ 

- Artificial tears as needed for dry eye
- Colace as needed for constipation
- Senna as needed for constipation
.
Please CHANGE
- dilaudid to 4 mg by mouth twice daily as needed for pain
- gabapentin to 200 mg by mouth daily 
. 
Please STOP 
- trazodone 
. 
Please take the rest of your medications as prescribed and 
follow up with your doctors as ___. 
.
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___